US06852731B2
N-(4-Chlorobenzyl)-3-(hydroxymethyl)-2-{[[(2R)-2-hydroxy-2-pyridin-2-ylethyl](methyl)amino]methyl}-4-methyl-7-oxo-4,7-dihydrothieno[3,2-b]pyridine-6-carboxamide
A mixture of 104 mg of 3-[(allyloxy)methyl]-N-(4-chlorobenzyl)-2-{[[(2R)-2-hydroxy-2-pyridin-2-ylethyl](methyl)amino]methyl}-4-methyl-7-oxo-4,7-dihydrothieno[3,2-b]pyridine-6-carboxamide and 75 mg of 5% Pd/C in 5 mL of MeOH is stirred and heated at 100° C. in a sealed tube for 3 days, then cooled and filtered through Celite. The filtrate is concentrated under reduced pressure, and the residue flash chromatographed on silica gel using 5% MeOH in CH2Cl2 to afford 28 mg of the title compound as a pale yellow glass. Recrystallization from EtOAc-hexane provides 18 mg of white solid.

reactant | 3-[(allyloxy)methyl]-N-(4-chlorobenzyl)-2-{[[(2R)-2-hydroxy-2-pyridin-2-ylethyl](methyl)amino]methyl}-4-methyl-7-oxo-4,7-dihydrothieno[3,2-b]pyridine-6-carboxamide | 104 mg | C(C=C)OCC1=C(SC2=C1N(C=C(C2=O)C(=O)NCC2=CC=C(C=C2)Cl)C)CN(C)C[C@H](C2=NC=CC=C2)O | C29H31ClN4O4S
solvent | MeOH | 5 mL | CO | CH4O
catalyst | Pd/C | 75 mg | [Pd] | Pd
product | N-(4-Chlorobenzyl)-3-(hydroxymethyl)-2-{[[(2R)-2-hydroxy-2-pyridin-2-ylethyl](methyl)amino]methyl}-4-methyl-7-oxo-4,7-dihydrothieno[3,2-b]pyridine-6-carboxamide | 28 mg | ClC1=CC=C(CNC(=O)C=2C(C3=C(N(C2)C)C(=C(S3)CN(C)C[C@H](C3=NC=CC=C3)O)CO)=O)C=C1 | C26H27ClN4O4S
